US04281120
The procedure used was as described in Example 5. However, there were used 9.2 g of 2-amino-5-piperidino-1,3,4-thiadiazole, 8.5 g of diethyl acetylenedicarboxylate and 200 ml of ethanol. Thus 9.8 g (63.7% of the theoretical yield) of ethyl 2-piperidino-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylate, melting at 125° to 127° C., were obtained.

reactant | 2-amino-5-piperidino-1,3,4-thiadiazole | 9.2 g | NC=1SC(=NN1)N1CCCCC1 | C7H12N4S
reactant | diethyl acetylenedicarboxylate | 8.5 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-piperidino-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylate | N1(CCCCC1)C1=NN2C(=NC(C=C2C(=O)OCC)=O)S1 | C13H16N4O3S
